US09056865B2
Step 2: N-(1-(4-(pyridin-2-yl)pyrimidin-2-yl)piperidin-4-yl)methanesulfonamide
A solution of 2-chloro-4-(pyridin-2-yl)pyrimidine (0.576 g, 3 mmol), N-(piperidin-4-yl)methanesulfonamide (0.64 g, 3.6 mmol) and Et3N (0.77 mL, 6 mmol) in CH3CN (15 mL) was refluxed for 2 h and TLC (petroleum:EtOAc=5:1) showed the reaction was complete. The reaction mixture was concentrated and purified by chromatography, eluted with CH2Cl2:MeOH (10:1 to 5:1) to give the title compound (0.78 g, 78%) as a yellow oil.

reactant | 2-chloro-4-(pyridin-2-yl)pyrimidine | 3 mmol, 0.576 g | ClC1=NC=CC(=N1)C1=NC=CC=C1 | C9H6ClN3
reactant | N-(piperidin-4-yl)methanesulfonamide | 3.6 mmol, 0.64 g | N1CCC(CC1)NS(=O)(=O)C | C6H14N2O2S
reactant | Et3N | 6 mmol, 0.77 mL | CCN(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | N-(1-(4-(pyridin-2-yl)pyrimidin-2-yl)piperidin-4-yl)methanesulfonamide | 0.78 g, 78% | N1=C(C=CC=C1)C1=NC(=NC=C1)N1CCC(CC1)NS(=O)(=O)C | C15H19N5O2S
